US07709645B2
To a microwave vial were added morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide (2.00 g, 5.61 mmol), pinacol diborane (2.85 g, 11.22 mmol), potassium acetate (1.65 g, 16.81 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (458 mg, 0.56 mmol), and N,N-dimethylformamide (13 ml). The vial was microwaved for 20 minutes at 140° C. The N,N-dimethylformamide solvent was removed by rotary evaporation. The residue was dissolved in dichloromethane, and the organic layer was washed with water twice. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel using a gradient of 10% methanol in ethyl acetate in hexanes and then crystallized from ether to give 1.41 g (62%) of morpholine-4-carboxylic acid [2-dimethylcarbamoyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide. MS: m/z 404.2 (M+H+).

reactant | morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide | 5.61 mmol, 2.00 g | BrC1=CC(=C(C=C1)NC(=O)N1CCOCC1)C(N(C)C)=O | C14H18BrN3O3
reactant | pinacol diborane | 11.22 mmol, 2.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.81 mmol, 1.65 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.56 mmol, 458 mg | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | morpholine-4-carboxylic acid [2-dimethylcarbamoyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 1.41 g, 62% | CN(C(=O)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)N1CCOCC1)C | C20H30BN3O5
